US04863503
A solution of phenol (13.16 g) in DMF (10 ml) was added in portions over 10 minutes to a stirred suspension of sodium hydride (3.12 g) in DMF (100 ml). After 2 hours, a solution of 3-(chloromethyl)thiophene (14.50 g) in DMF (30 ml) was added in one portion and the resulting mixture was stirred at room temperature for 3 hours then poured into water and extracted with ether. The extracts were washed successively with water, dilute aqueous sodium hydroxide, and aqueous sodium chloride, then dried and concentrated to give 3-(phenoxymethyl)thiophene (18.86 g, 91% yield) as a white solid. An analytical sample, recrystallised from methanol, had mp 49°-50° C.

reactant | phenol | 13.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 3.12 g | [H-].[Na+]
reactant | 3-(chloromethyl)thiophene | 14.50 g | ClCC1=CSC=C1 | C5H5ClS
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(phenoxymethyl)thiophene | 18.86 g, 91% yield | O(C1=CC=CC=C1)CC1=CSC=C1 | C11H10OS
